US08957064B2
2-{1-[4-(6-phenyl-pyrazolo[1,5-a]pyrimidin-5-yl)-benzyl]-piperidin-4-yl}-3H-benzimidazol-5-carbonitrile
265 mg (1 mmol) 2-piperidine-4-yl-3H-benzimidazole-5-carbonitrile hydrochloride salt was dissolved in 5 mL methanol. 204 mg (2 mmol) triethylamine, 250 mg (0.84 mmol) 4-(6-phenylpyrazolo[1,5-a]pyrimidin-5-yl)benzaldehyde, 5 mL DMF, 12.5 mL dichloromethane and 131 mg (2.2 mmol) acetic acid were added and after 30 minutes stirring 355 mg (1.68 mmol) NaBH(OAc)3 was added. Additional NaBH(OAc)3 has been added after one, two, three and four hours (two equivalents each) and the reaction mixture has been stirred overnight at room temperature. Usual work-up and purification as described in previous experiments yields 138 mg of the desired material.

reactant | 2-piperidine-4-yl-3H-benzimidazole-5-carbonitrile hydrochloride salt | 1 mmol, 265 mg | Cl.N1CCC(CC1)C=1NC2=C(N1)C=CC(=C2)C#N
reactant | triethylamine | 2 mmol, 204 mg | C(C)N(CC)CC | C6H15N
reactant | 4-(6-phenylpyrazolo[1,5-a]pyrimidin-5-yl)benzaldehyde | 0.84 mmol, 250 mg | C1(=CC=CC=C1)C=1C(=NC=2N(C1)N=CC2)C2=CC=C(C=O)C=C2 | C19H13N3O
reactant | acetic acid | 2.2 mmol, 131 mg | C(C)(=O)O | C2H4O2
reactant | NaBH(OAc)3 | 1.68 mmol, 355 mg | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
solvent | methanol | 5 mL | CO | CH4O
solvent | dichloromethane | 12.5 mL | ClCCl | CH2Cl2
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 2-{1-[4-(6-phenyl-pyrazolo[1,5-a]pyrimidin-5-yl)-benzyl]-piperidin-4-yl}-3H-benzimidazol-5-carbonitrile | 138 mg | C1(=CC=CC=C1)C=1C(=NC=2N(C1)N=CC2)C2=CC=C(CN1CCC(CC1)C=1NC3=C(N1)C=CC(=C3)C#N)C=C2 | C32H27N7
